US08703700B2
Methyl 2-(3-(4-methoxybenzyloxy)phenyl)thiazole-4-carboxylate (23)
3-(4-methoxybenzyloxy)phenylboronic acid (697 mg, 2.7 mmol, 1.5 eq.), methyl 2-bromothiazole-4-carboxylate (400 mg, 1.8 mmol, 1.0 eq.), dicyclohexyl (2′,6′-dimethoxybiphenyl-2-yl) phosphine (74 mg, 0.18 mmol, 10 mol %) and PdCl2 (20 mg, 0.090 mmol, 5 mol %) were dissolved in toluene (6 mL) and added to a solution of K3PO4 (828 mg, 3.6 mmol, 2.0 eq.) in water (0.6 mL). The reaction mixture was heated 20 min at 180° C. in a microwave reactor, allowed to cool, diluted with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The crude 23 was used in the next step without purification.

reactant | 3-(4-methoxybenzyloxy)phenylboronic acid | 2.7 mmol, 697 mg, 1.5 eq. | COC1=CC=C(COC=2C=C(C=CC2)B(O)O)C=C1 | C14H15BO4
reactant | methyl 2-bromothiazole-4-carboxylate | 1.8 mmol, 400 mg, 1.0 eq. | BrC=1SC=C(N1)C(=O)OC | C5H4BrNO2S
reactant | dicyclohexyl (2′,6′-dimethoxybiphenyl-2-yl) phosphine | 0.18 mmol, 74 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | K3PO4 | 3.6 mmol, 828 mg, 2.0 eq. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.6 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | PdCl2 | 0.090 mmol, 20 mg | Cl[Pd]Cl
product | Methyl 2-(3-(4-methoxybenzyloxy)phenyl)thiazole-4-carboxylate | COC1=CC=C(COC=2C=C(C=CC2)C=2SC=C(N2)C(=O)OC)C=C1 | C19H17NO4S
